US07511044B2
8-(6-(4-(1-(4-Fluorophenyl)ethyl)piperazin-1-yl)pyrimidin-4-yloxy)isoquinoline.
A mixture of 4-fluoro-6-(4-(1-(4-fluorophenyl)ethyl)piperazin-1-yl)pyrimidine, Example 33(a), (0.05 g, 0.17 mmol), isoquinolin-8-ol (0.037 g, 0.25 mmol, Monomer Chem, Inc.) cesium carbonate (0.081 g, 0.25 mmol), and DMSO (1 mL) was heated in a microwave synthesizer at 115° C. for 0.5 h. The reaction mixture was allowed to cool to room temperature, diluted with H2O (30 mL) and extracted with DCM (2×50 mL). The combined organic extracts were washed with H2O (2×30 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (gradient: 0-8% MeOH/DCM) to give the title compound as a white solid. Mp: 114° C. MS (ESI, pos. ion) m/z: 430 (M+1).

reactant | 4-fluoro-6-(4-(1-(4-fluorophenyl)ethyl)piperazin-1-yl)pyrimidine | FC1=NC=NC(=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)F | C16H18F2N4
reactant | isoquinolin-8-ol | 0.17 mmol, 0.05 g | C1=NC=CC2=CC=CC(=C12)O | C9H7NO
reactant | cesium carbonate | 0.25 mmol, 0.081 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | H2O | 30 mL | O | H2O
product | 8-(6-(4-(1-(4-Fluorophenyl)ethyl)piperazin-1-yl)pyrimidin-4-yloxy)isoquinoline | FC1=CC=C(C=C1)C(C)N1CCN(CC1)C1=CC(=NC=N1)OC=1C=CC=C2C=CN=CC12 | C25H24FN5O
